US04678781
The starting material was prepared by allowing a mixture of 3-amino-4-chloropyridine and excess methyl iodide (no solvent) to stand at ambient temperature for 1 hour to give 3-amino-4-chloro-1-methylpyridinium iodide as a solid, n.m.r. in solvent F: 4.2(s, 3H); 7.9-8.3(m, 3H).

reactant | 3-amino-4-chloropyridine | NC=1C=NC=CC1Cl | C5H5ClN2
reactant | methyl iodide | CI | CH3I
product | 3-amino-4-chloro-1-methylpyridinium iodide | [I-].NC=1C=[N+](C=CC1Cl)C | InChI=1S/C6H8ClN2.HI/c1-9-3-2-5(7)6(8)4-9;/h2-4H,8H2,1H3;1H/q+1;/p-1
